US08859732B2
3,5-Di(docosyloxy)benzylchloride (450 mg, 0.58 mmol), 2-hydroxy-4-methoxybenzaldehyde (185 mg, 1.22 mmol) and potassium carbonate (200 mg, 1.45 mmol) were suspended in DMF (4.5 ml), and the mixture was stirred at 80° C. for 6 hr. The reaction mixture was extracted with chloroform (20 ml), and washed 3 times with 1N hydrochloric acid (7 ml). The solvent was evaporated and the obtained residue was precipitated with methanol (5 ml) to give 2-[3′,5′-di(docosyloxy)benzyl]-4-methoxybenzaldehyde (502 g, 0.56 mmol, 97%).

reactant | 3,5-Di(docosyloxy)benzylchloride | 0.58 mmol, 450 mg | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C51H95ClO2
reactant | 2-hydroxy-4-methoxybenzaldehyde | 1.22 mmol, 185 mg | OC1=C(C=O)C=CC(=C1)OC | C8H8O3
reactant | potassium carbonate | 1.45 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
product | 2-[3′,5′-di(docosyloxy)benzyl]-4-methoxybenzaldehyde | 0.56 mmol, 502 g, 97% | C(CCCCCCCCCCCCCCCCCCCCC)OC=1C=C(CC2=C(C=O)C=CC(=C2)OC)C=C(C1)OCCCCCCCCCCCCCCCCCCCCCC | C59H102O4
